US06956077B1
Into a liquid reaction mixture of 4-piperidinecarboxamide (5.0 mg) and triethylamine (5.3 ml) in dimethylformamide (70 ml), a solution of acrylic acid (3.2 ml) dissolved in dimethylformamide (20 ml) was dropped under ice-cooling over 3 hours. After the completion of the addition, the resultant mixture was stirred at room temperature for 1 hour and then filtered. From the filtrate thus obtained, the solvent was eliminated by using a rotary evaporator. After adding an acetone solution to the residue, the mixture was treated with a silica gel column to give N-acryloyl-4-piperidinecarboxamide (1.4 g).

reactant | 4-piperidinecarboxamide | 5.0 mg | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | acrylic acid | 3.2 ml | C(C=C)(=O)O | C3H4O2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-acryloyl-4-piperidinecarboxamide | 1.4 g | C(C=C)(=O)NC(=O)C1CCNCC1 | C9H14N2O2
